### PR TITLE
feat: natural multiplication is closed below ω^ω^x

### PR DESCRIPTION
**Pull request by vihdzp**

### CODE REVIEW

File: CombinatorialGames/NatOrdinal/Pow.lean [hunk 1]
```diff
@@ -135,6 +131,10 @@ theorem wpow_mul_natCast_lt (h : x < y) (n : ℕ) : ω^ x * n < ω^ y := by
   rw [wpow_mul_natCast]
   exact omega0_opow_mul_nat_lt h n
 
+@[simp]
+theorem of_opow_mul_natCast (x : Ordinal) (n : ℕ) : of (ω ^ x * n) = ω^ of x * n := by
```
Comment (plp127) [inline CombinatorialGames/NatOrdinal/Pow.lean]: perhaps you can mention `omega0` in the lemma name somewhere
